US08530701B2
A mixture of (R)-2-[4-(2-fluorobenzyloxy)benzylideneamino]propanamide (III′b) (30 g) and of methanol (180 mL) is cooled under stirring to 2-5° C. Sodium borohydride (3.8 g) is added in twenty small portions in 90 min to the previously prepared cold mixture keeping the temperature below 5° C. The mixture is then stirred for additional 10 min at 5° C. The reaction mixture is concentrated under vacuum and worked up as described in Example 2 to provide 28.44 g (94% yield of (R)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide (I′b) with a HPLC purity of 99.8 (area %) determined according to the method of Example 25A and a C,O-dialkylated (R)-2-[3-(2-fluorobenzyl)-4-(2-fluorobenzyloxy)-benzylamino]propanamide content less than 0.005% by weight determined by HPLC, according to the method of Example 25B.

reactant | (R)-2-[4-(2-fluorobenzyloxy)benzylideneamino]propanamide | 30 g | FC1=C(COC2=CC=C(C=N[C@@H](C(=O)N)C)C=C2)C=CC=C1 | C17H17FN2O2
reactant | Sodium borohydride | 3.8 g | [BH4-].[Na+]
solvent | methanol | 180 mL | CO | CH4O
product | (R)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide | 94% yield | FC1=C(COC2=CC=C(CN[C@@H](C(=O)N)C)C=C2)C=CC=C1 | C17H19FN2O2
